US07470680B2
5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid.
To a white suspension of 5-methoxy-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid (500 mg, 2.60 mmol) in tetrahydrofuran (25 mL) was added sodium hydride (281 mg, 11.72 mmol) in several portions at 0° C., the resulting light grey suspension was stirred for 30 min, followed by dropwise addition of chlorotriisopropylsilane (2260 mg, 11.72 mmol) through a syringe over 30 sec. under N2. The mixture, as a suspension, was continued stirring at 0° C. for 2 hr, and the conversion was completed as determined by LC/MS. The reaction was carefully quenched with sat. NH4Cl (10 mL), extracted with Et2O (2×50 mL), the combined organic solution was washed with brine (20 mL), dried (Na2SO4), concentrated on rotary vacuo to afford the expected product, 5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid (900 mg, 99%), as a grey gum. 1H-NMR (500 MHz, CHLOROFORM-D) s ppm 1.11 (d, J=7.63 Hz, 21 H) 1.62-1.72 (m, 3 H) 4.03-4.10 (m, 2 H) 6.67 (d, J=3.36 Hz, 1 H) 7.31 (s, 1 H) 7.43 (d, J=3.05 Hz, 1 H); Mass spec 349.21 (MH+) Calc for C17H29BN2O3Si 348.2.

reactant | 5-methoxy-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid | 2.60 mmol, 500 mg | COC1=C(C=C2C(=N1)C=CN2)B(O)O | C8H9BN2O3
reactant | sodium hydride | 11.72 mmol, 281 mg | [H-].[Na+]
reactant | chlorotriisopropylsilane | 11.72 mmol, 2260 mg | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid | 900 mg, 99% | COC1=C(C=C2C(=N1)C=CN2[Si](C(C)C)(C(C)C)C(C)C)B(O)O | C17H29BN2O3Si
